US06342244B1
FIG. 5 shows another synthetic reaction scheme for preparation of an mPEG-DTB-ligand compound in accord with the invention. The details of the reaction procedure are given in Examples 3A-3B. Briefly, cold 1-amino-2-propanol was reacted with sulfuric acid to form 2-amino-1-methylethyl hydrogen sulfate. This product was reacted with carbon disulfide and sodium hydroxide in aqueous ethanol to yield 5-methylthiazolidine-2-thione. An aqueous solution of hydrochloric acid was added to the 5-methylthiazolidine-2-thione and heated. After refluxing for one week, the product, 1-mercapto(methyl)ethyl ammonium chloride, was crystallized and recovered. This product was reacted with methoxy carbonylsulfenyl chloride to yield 2-(methoxycarbonyldithio)ethaneamine. Reaction of the 2-(methoxycarbonyldithio)ethaneamine with mPEG-chloroformate using the procedure described above with respect to FIG. 2 yields the desired mPEG-DTB-nitrophenyl compound suitable for reaction with a selected amine-containing ligand to form a compound in accord with the invention.

reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-amino-1-methylethyl hydrogen sulfate | S(=O)(=O)(OC(CN)C)O | C3H9NO4S
